US06833456B2
To a solution of DMF was added 7-(2-Methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid (0.6 g, 1.85 mmol), DIEA (0.62 mL, 3.70 mmol), HATU (0.77 g, 2.03) and MeOH (0.5 mL). The solution was stirred for 3 h then 50 mL of EtOAc added and partitioned between 50/50 NaHCO3 (2×50 mL). The organic layer was dried over Na2SO4 then concentrated. Purification was through silica (50 mL) eluting with EtOAc/Hex (2:1). The purified fraction combined and concentrated to give 7-(2-Methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid methyl ester as white foam (0.6 g, 96%). HPLC: Rt 4.01 min. (100% area). 1H NMR (CDCl3-d3, 400 MHz) δ: 8.42 (1H, d, J=5.6 Hz), 8.29 (1H, bs), 7.26-7.23 (2H, m), 6.85 (1H, dd, J=7.5, 1.6 Hz), 6.51 (1H, d, J=5.3 Hz), 6.17 (1H, s), 3.91 (3H, s), 2.40 (3H, s). LCMS (ACPI) M+H+ m/z: 339.1.

reactant | DMF | CN(C)C=O | C3H7NO
reactant | 7-(2-Methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid | 1.85 mmol, 0.6 g | CC=1NC2=CC=C(C=C2C1)OC1=C2C(=NC=C1)C=C(S2)C(=O)O | C17H12N2O3S
reactant | DIEA | 3.70 mmol, 0.62 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.77 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 0.5 mL | CO | CH4O
product | 7-(2-Methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid methyl ester | 0.6 g, 96% | COC(=O)C1=CC2=NC=CC(=C2S1)OC=1C=C2C=C(NC2=CC1)C | C18H14N2O3S
